US08389527B2
24C. Preparation of 6-chloro-8-((4-methoxybenzyl)(5-methylpyridin-2-yl)amino)-N-(pyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide
A solution of 6-chloro-8-((4-methoxybenzyl)(5-methylpyridin-2-yl)amino)imidazo[1,2-b]pyridazine-3-carboxylic acid (0.07 g, 0.165 mmol), 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (0.047 g, 0.248 mmol), 1-hydroxybenzotriazole (0.033 g, 0.248 mmol), TEA (0.069 mL, 0.495 mmol) and pyridin-4-amine (0.023 g, 0.248 mmol) in acetonitrile (2 mL) was heated to 80° C. for 16 hours. The solution was quenched with EA/water. The organic layer was washed with sat NaHCO3 and sat NaCl. The organic layer was dried with Na2SO4, filtered and concentrated in vacuo to give the crude product mixture. The crude product was purified by ISCO (5% EtOAC/DCM; 12 g column), followed by ISCO (5% MeOH/DCM; 12 g column) to afford the title compound (32 mg). [M+H]=500.

reactant | 6-chloro-8-((4-methoxybenzyl)(5-methylpyridin-2-yl)amino)imidazo[1,2-b]pyridazine-3-carboxylic acid | 0.165 mmol, 0.07 g | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)O)N(C2=NC=C(C=C2)C)CC2=CC=C(C=C2)OC | C21H18ClN5O3
reactant | 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride | 0.248 mmol, 0.047 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.248 mmol, 0.033 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | pyridin-4-amine | 0.248 mmol, 0.023 g | N1=CC=C(C=C1)N | C5H6N2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 6-chloro-8-((4-methoxybenzyl)(5-methylpyridin-2-yl)amino)-N-(pyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 32 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC=NC=C2)N(C2=NC=C(C=C2)C)CC2=CC=C(C=C2)OC | C26H22ClN7O2
